US07253180B2
Imidazole (0.74 g, 10.8 mmol) and chlorotriisopropylsilane (TIPSCl, 1.15 g, 6.0 mmol) were added to 5,8-dihydroxy-quinoline-6,7-dicarboxylic acid dimethyl ester (prepared by the method in Oguchi, S. Bulletin of the Chemical Society of Japan 1974, 47, 1291, 1.5 g, 5.4 mmol) in 20 mL DMF. The reaction was stirred for 48 h at rt and then the reaction was partitioned between 0.5 L methyl t-butyl ether and 150 mL saturated aq. LiCl. The organic layer was dried over Na2SO4 and the solvent removed by rotary evaporation. The residue (1.4 g, 3.2 mmol) was redissolved in 25 mL DMF and treated with K2CO3 (0.66 g, 4.8 mmol) followed by methyl iodide (MeI, 0.6 g, 4.8 μL) at rt. After 2 h, the reaction mixture was concentrated and purified by introduction of the reaction mixture onto silica gel for flash chromatography (4/1 hexanes/ethyl acetate) to give 5-methoxy-8-triisopropylsilanyloxy-quinoline-6,7-dicarboxylic acid dimethyl ester (1.4 g, 59% overall yield): 1H NMR (CDCl3) δ 8.85 (d, 1H), 8.45 (d, 1H), 7.50 (dd, 1H), 4.05 (s, 3H), 3.95 (s, 3H), 3.90 (s, 3H), 1.45 (septet, 3H), 1.05 (d, 9H); MS: 448 (M+H).

reactant | Imidazole | 10.8 mmol, 0.74 g | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 6.0 mmol, 1.15 g | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | 5,8-dihydroxy-quinoline-6,7-dicarboxylic acid dimethyl ester | COC(=O)C=1C(=C2C=CC=NC2=C(C1C(=O)OC)O)O | C13H11NO6
reactant | K2CO3 | 4.8 mmol, 0.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 4.8 μL, 0.6 g | CI | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-methoxy-8-triisopropylsilanyloxy-quinoline-6,7-dicarboxylic acid dimethyl ester | 1.4 g, 59% | COC(=O)C=1C(=C2C=CC=NC2=C(C1C(=O)OC)O[Si](C(C)C)(C(C)C)C(C)C)OC | C23H33NO6Si
